US04239707
A mixture of 13.6 g (0.1 mol) of 1,5-dimethyl-1,5-cyclooctadiene and 1,6-dimethyl-1,5-cyclooctadiene, ratio 80/20, was boiled under reflux while stirring for two hours with 100 ml 55% hydrogen iodide in the presence of 2 g AMBERLYST A15 ion-exchange resin. The reaction product was extracted with pentane after cooling. The pentane layer was washed with water and an aqueous sodium bicarbonate solution. Residual free iodine present in the solution was washed away with a diluted sodium thiosulfate solution. The resulting pentane solution was dried over anhydrous sodium sulfate and pentane was flashed off. Fractional distillation under reduced pressure gave 17 g of 1,5-dimethyl-8-iodobicyclo[3,2,1]octane (b.p. 106° C./7 mm Hg). Yield 80.6% calculated on the amount of 1,5-dimethyl-1,5-cyclooctadiene added to the reaction. The purity of the product according to gas-liquid chromatography was more than 95%. The product appeared to be sensitive to day-light.

reactant | 1,5-dimethyl-1,5-cyclooctadiene | 0.1 mol, 13.6 g | CC1=CCCC(=CCC1)C | C10H16
reactant | 1,6-dimethyl-1,5-cyclooctadiene | CC1=CCCC=C(CC1)C | C10H16
reactant | hydrogen iodide | 100 ml | I | HI
product | 1,5-dimethyl-8-iodobicyclo[3,2,1]octane | 17 g, Yield 80.6% | CC12CCCC(CC1)(C2I)C | C10H17I
